US07727988B2
1-(4-Chloro-butyl)-5-(2-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione (Prep48)
3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione (Prep 47, 330 mg, 0.8 mmol) was dissolved in a solution of 3% NH3 in MeOH (15 mL). The mixture was stirred at room temperature for 3 hours, the solvent was then evaporated under vacuum. The residue was redissolved in MeOH and filtered on a SCX cartridge to give 220 mg of the title compound as a yellow oil (90% yield).

reactant | 3-Benzoyl-1-(4-chloro-butyl)-5-(2-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione | 0.8 mmol, 330 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)C=1C(=NC=CC1)C)CCCCCl)=O | C21H20ClN3O3
solvent | NH3 | N | H3N
solvent | MeOH | 15 mL | CO | CH4O
product | 1-(4-Chloro-butyl)-5-(2-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione | 220 mg, 90% yield | ClCCCCN1C(NC(C(=C1)C=1C(=NC=CC1)C)=O)=O | C14H16ClN3O2
